US08247401B2
Step A: Methyl 3-(5-methylpyridin-2-yl)-5-(2-methylpyrimidin-5-yl)benzoate
To a solution of methyl 3-(5-methylpyridin-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (170 mg, 0.481 mmol) in N,N-dimethylformamide (1.44 mL) and water (0.481 mL) was added 5-bromo-2-methylpyrimidine (167 mg, 0.963 mmol), palladium(II) acetate (5.40 mg, 0.024 mmol), 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt (41.0 mg, 0.072 mmol) and diisopropylamine (0.171 mL, 1.20 mmol) and the mixture was heated to 80° C. After 1 h, the reaction was allowed to cool to ambient temperature and filtered. Purification by reverse phase chromatography (C-18, 95% water/acetonitrile→50% water/acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (100 mg). MS 320.1 (M+1).

reactant | methyl 3-(5-methylpyridin-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.481 mmol, 170 mg | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)B1OC(C(O1)(C)C)(C)C | C20H24BNO4
reactant | 5-bromo-2-methylpyrimidine | 0.963 mmol, 167 mg | BrC=1C=NC(=NC1)C | C5H5BrN2
reactant | 3,3′3″-phosphinidynetris(benzenesulfonic acid)trisodium salt | 0.072 mmol, 41.0 mg | C1=CC(=CC(=C1)S(=O)(=O)[O-])P(C2=CC(=CC=C2)S(=O)(=O)[O-])C3=CC(=CC=C3)S(=O)(=O)[O-].[Na+].[Na+].[Na+]
reactant | diisopropylamine | 1.20 mmol, 0.171 mL | C(C)(C)NC(C)C | C6H15N
solvent | N,N-dimethylformamide | 1.44 mL | CN(C=O)C | C3H7NO
solvent | water | 0.481 mL | O | H2O
catalyst | palladium(II) acetate | 0.024 mmol, 5.40 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 3-(5-methylpyridin-2-yl)-5-(2-methylpyrimidin-5-yl)benzoate | 100 mg | CC=1C=CC(=NC1)C=1C=C(C(=O)OC)C=C(C1)C=1C=NC(=NC1)C | C19H17N3O2
